US07022689B2
To a stirred solution of 5.9 g of N-[2-(4-bromo-2-nitrophenyl)ethyl]-5-cyano-2-methoxybenzenesulfonamide and 46 mL of acetic acid in 67 mL of tetrahydrofuran were added successively 2.23 mL of concentrated hydrochloric acid and 8.76 g of zinc under ice-cooling. After the mixture was stirred at room temperature for an hour, and to the reaction mixture was added 25% aqueous ammonia solution to alkalify. After the mixture was extracted with ethyl acetate, the organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 5.58 g of N-[2-(2-amino-4-bromophenyl)ethyl]-5-cyano-2-methoxybenzenesulfonamide.

reactant | N-[2-(4-bromo-2-nitrophenyl)ethyl]-5-cyano-2-methoxybenzenesulfonamide | 5.9 g | BrC1=CC(=C(C=C1)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC)[N+](=O)[O-] | C16H14BrN3O5S
reactant | acetic acid | 46 mL | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 2.23 mL | Cl | ClH
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 67 mL | O1CCCC1 | C4H8O
catalyst | zinc | 8.76 g | [Zn] | Zn
product | N-[2-(2-amino-4-bromophenyl)ethyl]-5-cyano-2-methoxybenzenesulfonamide | 5.58 g | NC1=C(C=CC(=C1)Br)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC | C16H16BrN3O3S
